US04092268
The barium nonylphenate is prepared by contacting nonylphenol (0.02 mole) and barium hydroxide (0.01 mole of Ba(OH)2) in the presence of 100 cc. of toluene. The mixture is agitated in the hot (60°-80° C.) until the barium hydroxide has entirely disappeared. About half the solvent is evaporated in vacuum so as to carry over all of the water formed and the concentrated solution is then made up to 100 cc. by means of fresh toluene. In this way there is obtained a solution of anhydrous barium nonylphenate in toluene of a concentration of about 1/10 M.

reactant | nonylphenol | 0.02 mole | CCCCCCCCCC=1C=CC(=CC1)O | C15H24O
reactant | barium hydroxide | 0.01 mole | [OH-].[Ba+2].[OH-]
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | barium nonylphenate | CCCCCCCCCC1=CC=CC=C1[O-].CCCCCCCCCC1=CC=CC=C1[O-].[Ba+2] | InChI=1S/2C15H24O.Ba/c2*1-2-3-4-5-6-7-8-11-14-12-9-10-13-15(14)16;/h2*9-10,12-13,16H,2-8,11H2,1H3;/q;;+2/p-2
